US05873943
A commercially available aqueous solution of high purity maltose having the same sugar composition used in the first step of Example 5 was adjusted to have a concentration of 35%, and then reduced by Raney nickel catalyst, imposed a hydrogen pressure of 100 kg/cm2, under a condition at a temperature of 120° C. for a reaction time of 90 minutes, to obtain aqueous solution of maltitol. The sugar composition in the solid component of the resulting aqueous solution of maltitol was that maltitol was 85.0%, sorbitol was 0.5%, oligosaccharide alcohol which was equal or more than DP3 was 14.5%.

reactant | maltose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@H](O[C@H]([C@@H]([C@H]2O)O)O)CO)O)O)O)O | C12H22O11
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
product | maltitol | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@H]([C@@H](CO)O)[C@@H]([C@H](CO)O)O)O)O)O)O | C12H24O11
